US04560692
Synthesis of 1-[6-Fluoro-2-phenyl-4-quinolinyl]-N-propyl-4-piperidinecarboxamide
In a manner analogous to that of Example 1(e) but using 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarbonyl chloride and propylamine as starting materials the named compound was obtained as off-white needles, mp 196°-198° dec. after recrystallization from methanol.

reactant | 1-[6-Fluoro-2-phenyl-4-quinolinyl]-4-piperidinecarbonyl chloride | FC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N1CCC(CC1)C(=O)Cl | C21H18ClFN2O
reactant | propylamine | C(CC)N | C3H9N
product | 1-[6-Fluoro-2-phenyl-4-quinolinyl]-N-propyl-4-piperidinecarboxamide | FC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N1CCC(CC1)C(=O)NCCC | C24H26FN3O
